US04957928
At room temperature and while stirring, a solution of 15.61 g (75 mmol) of 2-methoxycarbonylmethylbenzo-1,4-dioxan in 120 ml of absolute tetrahydrofuran is added dropwise within a period of 30 minutes to a suspension of 2.85 g (75 mmol) of lithium aluminium hydride in 120 ml of absolute diethyl ether. The reaction mixture is stirred for a further 2 hours at room temperature. It is then carefully decomposed with 2.85 ml of water, 2.85 ml of sodium hydroxide solution (15% strengh) and 8.55 ml of water. The precipitate formed is filtered off with suction and the filtrate is concentrated by evaporation in vacuo. The oily residue is dissolved in diethyl ether. The solution is washed thoroughly with water, dried over sodium sulphate and concentrated by evaporation in vacuo. 12.37 g (91.6%) of 2-(2-hydroxyethyl)-benzo-1,4-dioxan are obtained in the form of a colourless oil.

reactant | 2-methoxycarbonylmethylbenzo-1,4-dioxan | 75 mmol, 15.61 g | COC(=O)CC1COC2=C(O1)C=CC=C2 | C11H12O4
reactant | lithium aluminium hydride | 75 mmol, 2.85 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.85 ml | O | H2O
reactant | sodium hydroxide | 2.85 ml | [OH-].[Na+]
reactant | water | 8.55 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 2-(2-hydroxyethyl)-benzo-1,4-dioxan | 12.37 g, 91.6% | OCCC1COC2=C(O1)C=CC=C2 | C10H12O3
